* AD549 SPICE Macro-model 
* Description: Amplifier
* Generic Desc: 5/30V, JFET, OP, Low Ib, Precision, 1X
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
* 1.1 ADSJ-HH 02/11 Changed some comment lines; delete spurious character on E3 line 
* 1.0 ADSJ-HH 08/09
* Copyright 2009, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes: CAUTION!!  To aid in convergence, most Spice simulators add a
*  conductance on every node to insure that no node is floating.
*  This is GMIN, and the default value is usually 1E-12.  To properly 
*  simulate the low input bias current and low current noise, the 
*  Spice simulator options have to be set to the following:
*  .OPTIONS GMIN=0.1f
*  .OPTIONS ABSTOL=0.001pA
*  In many simulations, .OPTIONS STEPGMIN may have to be used.
*
* Not Modeled:
*
* Parameters modeled include:
*	This model simulates typical values at Vs=+/-15V and 25 C only.
* GBW & PM, Ibias, en, in, Ccm, Cdm, Isc, IVR
* Not simulated/implemented – performance over temp and supply voltage
*
* END Notes
* 
* Node assignments
*                  Non-inverting input
*                  | inverting input
*                  | | positive supply
*                  | | |  negative supply
*                  | | |  |  output
*                  | | |  |  |
.SUBCKT AD549      1 2 99 50 30
*
* INPUT STAGE
*
RD1   4  50  4.621E+04
RD2   6  50  4.621E+04
Cdiff 1   2  5.400E-13; for 1pF total diff.
Cin1  1  50  0.830E-12
Cin2  2  50  0.830E-12
I1   99   8  1.300E-04
IOS   1   2 10.00E-15
EOS   7   1   POLY(3) (22, 98) (73, 98) (81, 0) 45E-6  1 1 1 1
V1   9a   8  DC  4.1
D1   9a  99  DX
J6   6  2   8   JX;  D G S
J7   4  7   8   JX
Cph  4  5z   0.400E-13
Rph  6  5z   1.00E+03
GB2  7  50    POLY(3) (4, 7) (8, 7) (50, 7) 1.0E-14 -1E-16 -1E-16 -2E-16
*
EREF 98 0    24 0   1
*
* SECOND STAGE & POLE 
*
R5   9  98   8.615E+06
C3   9  98   1.000E-08
G1  (9 98)   (4 6)  4.500E-03
V103   132 98     12.3
D103   9 132     DX
V104   133 98    -12.5
D104   133 9      DX
*
* VOLTAGE NOISE GENERATOR
*
VN1  41  0    DC 2
DN1  41 81    DEN
DN2  81 43    DEN
VN2  0  43    DC 2
*
* COMMON-MODE GAIN NETWORK WITH ZERO  
*
R10  72 73     4.421E+03
R20  73 98     1.592E-02
C10  72 73     1.000E-06
E3   72 98     POLY(2) (1, 98) (2, 98) 3.449E-00 3.449E-00
*
* PSRR WITH ZERO 
*
EPSY 21 98 POLY(1) (50,99) -13.07E+00 1.332694E-01
RPS1 21 22 5.134E+03
RPS2 22 98 1.061E-01
CPS1 21 22 1.000E-06
*
* POLE 
*
R13  18 98  1.000E+03
C9   18 98  1.100E-12
G5   98 18  (9 98)  1.000E-03
*
* OUTPUT STAGE
*
R14  24 99     500E3
R15  24 50     500E3
GSY  99 50 POLY(1) (99 50) 468.0E-6 -0.5E-06
R5a  29 99     200
R6a  29 50     200
L1   29 30     1E-09;  30 is output
G6   27 50     18 29  5.000E-03
G7   28 50     29 18  5.000E-03
G5a  29 99     99 18  5.000E-03
G6a  50 29     18 50  5.000E-03
*
V4   25 29     1.244
D5   18 25     DX
V5   29 26     1.244
D6   26 18     DX
F1   29  0     V4  1.00
F2   0  29     V5  1.00
*
D3   99 27     DX
D4   99 28     DX
D7   50 27     DY
D8   50 28     DY
*
* MODELS USED
*
.MODEL JX PJF(BETA=3.00E-04 VTO=-1.000  IS=2E-15 RD=1
+ RS=1 CGD=2E-13 CGS=2E-13)
.MODEL DX   D(IS=1E-15 RS=0 CJO=1E-12)
.MODEL DY   D(IS=1E-15 BV=50 RS=10 CJO=1E-12)
.MODEL DEN  D(IS=1E-12 RS=134100, KF=2.423E-15 AF=1)
.MODEL DIN  D(IS=1E-12 RS=12, KF=0 AF=1)
.ENDS 
*$



